US06337331B1
6-Cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (50 g, 0.18 mmol), triphenylphosphine (120 mg, 0.44 mmol) and (1-methyl-1H-1,2,4-triazol-3-yl)methanol (50 g, 0.44 mmol) were suspended in dry tetrahydrofuran (1.5 ml). Diethyl azodicarboxylate (70 μl, 0.44 mmol) was added and a solution resulted immediately. The reaction was stirred at room temperature for 48 hours during which time a precipitate formed in the reaction mixture. The crude reaction mixture was evaporated and recrystallised from EtOAc. The pale pink crystalline solid thus produced was collected by filtration and washed with diethyl ether to afford 6-cyclobutyl-3-(2-fluorophenyl)-5-(1-methyl-1H-1,2,4-triazol-3-ylmethoxy)-1,2,3-triazolo[1,5-α]pyrimidine (40 mg, 60%) as pale needles, m.p. 202-205° C.; δH (400 MHz, CDCl3) 1.84-1.92 (1H, m, CH(CH2)3), 2.06-2.16 (3H, m, CH(CH2)3), 3.67 (1H, quintet, J=9 Hz, CH(CH2)3), 3.94 (3H, s, NCH3), 7.19-7.29 (2H, m, ArH), 7.32-7.36 (1H, m, ArH), 8.04 (1H, s, triazole CH), 8.12 (1H, td, J=7.5 and 1.8 Hz, ArH), 8.55 (1H, d, J=1.5 Hz, pyrimidine CH); m/z (ES+) 380 (M+H+).

reactant | 6-Cyclobutyl-3-(2-fluorophenyl)-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 0.18 mmol, 50 g | C1(CCC1)C=1C(NC=2N(C1)N=NC2C2=C(C=CC=C2)F)=O | C15H13FN4O
reactant | triphenylphosphine | 0.44 mmol, 120 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (1-methyl-1H-1,2,4-triazol-3-yl)methanol | 0.44 mmol, 50 g | CN1N=C(N=C1)CO | C4H7N3O
reactant | Diethyl azodicarboxylate | 0.44 mmol, 70 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 6-cyclobutyl-3-(2-fluorophenyl)-5-(1-methyl-1H-1,2,4-triazol-3-ylmethoxy)-1,2,3-triazolo[1,5-α]pyrimidine | 40 mg, 60% | C1(CCC1)C=1C(=NC=2N(C1)N=NC2C2=C(C=CC=C2)F)OCC2=NN(C=N2)C | C19H18FN7O
